US04769472
3-(3-Hydroxyphenyl)thieno[2,3-d]isoxazole
Eight grams of 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole was stirred with 80 g of pyridine hydrochloride for nine hours under nitrogen at 140° C. The reaction mixture was then allowed to cool and quenched with water. The organics were extracted into ether/ethyl acetate (1:1), which was then washed once with 3N hydrochloric acid and three times with water an dried over anhydrous magnesium sulfate. Evaporation of the solvents left 4 g of an oil, which was passed through a silica gel column packed in hexane. Elution of the column with 5% ethyl acetate/dichloromethane and recrystallization of the resultant solid from ether/hexane gave 3 g of a solid, m.p. 114°-116° C.

reactant | 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole | Eight grams | COC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C12H9NO2S
reactant | pyridine hydrochloride | 80 g | Cl.N1=CC=CC=C1
product | 3-(3-Hydroxyphenyl)thieno[2,3-d]isoxazole | 3 g | OC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C11H7NO2S
